US04132847
To a solution, under nitrogen, of 0.187 g (3.9 mmole) of sodium hydride (50% dispersion in mineral oil) in 10 ml of dry THF was added dropwise 1.2 g (4.95 mmole) of dimethyl (2-oxo-4-phenylbutyl)-phosphonate. The heterogeneous mixture was stirred for 1.0 hour then a solution of 1.0 g (3.54 mmole) of 2-formyl-3-(5-carboethoxypentyloxy)-4-pyrone, prepared by the procedure of Examples 1 and 2, in 5 ml of THF was added. The mixture was stirred for 15 min then was neutralized to pH 7 with glacial acetic acid. The neutralized solution was concentrated by rotary evaporation and the residue dissolved in methylene chloride. The organic solution was washed with saturated brine solution and dried over magnesium sulfate. Removal of the solvent left an oil which was purified by chromatography on silica gel using ether as the eluent. Concentration of the fractions containing product furnished 0.90 g (64%) of pure 2-(3-oxo-5-phenyl-trans-1-pentenyl)-3-(5-carboethoxypentyloxy)-4-pyrone, m.p. 38.5-40°. NMR (CDCl3): δ1.26 (3H, t, J = 7 Hz); 2.35 (2H, t, J = 6.5 Hz).

reactant | sodium hydride | 3.9 mmole, 0.187 g | [H-].[Na+]
reactant | dimethyl (2-oxo-4-phenylbutyl)-phosphonate | 4.95 mmole, 1.2 g | O=C(CP(OC)(OC)=O)CCC1=CC=CC=C1 | C12H17O4P
reactant | 2-formyl-3-(5-carboethoxypentyloxy)-4-pyrone | 3.54 mmole, 1.0 g | C(=O)C=1OC=CC(C1OCCCCCC(=O)OCC)=O | C14H18O6
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(3-oxo-5-phenyl-trans-1-pentenyl)-3-(5-carboethoxypentyloxy)-4-pyrone | 0.90 g, 64% | O=C(/C=C/C=1OC=CC(C1OCCCCCC(=O)OCC)=O)CCC1=CC=CC=C1 | C24H28O6
